US06011044
Preparation of 1-(2-methylphenyl)-4-[(3-hydroxypropyl)amino]-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline
1-(2-Methylphenyl)-4-chloro-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline(380 mg, 1.0 mmol) was dissolved in 3-amino-1-propanol(5 ml), then reacted at the same condition of Step 5 in the Example 1 to obtain 313 mg of desired compound as solid in 75% of yield.

reactant | 1-(2-Methylphenyl)-4-chloro-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 1.0 mmol, 380 mg | CC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)OC(F)(F)F)Cl | C19H14ClF3N2O
reactant | 3-amino-1-propanol | 5 ml | NCCCO | C3H9NO
product | 1-(2-methylphenyl)-4-[(3-hydroxypropyl)amino]-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 313 mg | CC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)OC(F)(F)F)NCCCO | C22H22F3N3O2
